US06743608B2
(2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid/Hexyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate
To hexyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate (0.5 ml of a solution containing 2 mg/ml in a phosphate, pH 7; 0.1M, or acetate buffer, pH 5; 0.1 M) was added the enzyme (0.5 ml enzyme solution). The reaction mixture was shaken at room temperature and analysed at different times (maximum 30 h). The reaction mixture was analysed by the gradient HPLC method 1, and the chiral CE method 1.

reactant | hexyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)OC(C(=O)OCCCCCC)CC1=CC=C(C=C1)O | C17H26O4
reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | acetate | C(C)(=O)[O-]
product | (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid Hexyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)O.C(C)O[C@@H](C(=O)OCCCCCC)CC1=CC=C(C=C1)O | InChI=1S/C17H26O4.C11H14O4/c1-3-5-6-7-12-21-17(19)16(20-4-2)13-14-8-10-15(18)11-9-14;1-2-15-10(11(13)14)7-8-3-5-9(12)6-4-8/h8-11,16,18H,3-7,12-13H2,1-2H3;3-6,10,12H,2,7H2,1H3,(H,13,14)/t16-;10-/m10/s1
